US07709500B2
Step 5: Methyl 6-fluoro-1-oxo-1,2-dihydroisoquinoline-4-carboxylate
A mixture of methyl 6-fluoro-1-oxo-1H-isochromene-4-carboxylate (1.53 g) and ammonium acetate (2.5 g) in 4 ml of glacial acetic acid was heated at 80° C. for 16 h. The reaction was cooled to 40° C., diluted with 8 ml of water and the solid collected by filtration (1.38 g).

reactant | methyl 6-fluoro-1-oxo-1H-isochromene-4-carboxylate | 1.53 g | FC=1C=C2C(=COC(C2=CC1)=O)C(=O)OC | C11H7FO4
reactant | ammonium acetate | 2.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
product | Methyl 6-fluoro-1-oxo-1,2-dihydroisoquinoline-4-carboxylate | FC=1C=C2C(=CNC(C2=CC1)=O)C(=O)OC | C11H8FNO3
